US05366987
(d) 5-(Bromomethyl)-3-dodecylisoxazole
To a stirred, chilled (+3° C.) solution of 3-dodecyl-5-isoxazole methanol (1.0 g, 0.0037 mol) in dichloromethane (20 mL) was added in one portion phosphorous tribromide (0.13 mL, 0.0014 mol), and the solution was stirred at +3° C. for 1.5 hours, then at room temperature for 3 days. The mixture was washed carefully with saturated sodium bisulfite, saturated sodium bicarbonate, and saturated sodium chloride. The organic layer was dried (MgSO4) and rotoevaporated to a yellow oil which solidified upon standing; yield 1.12 g (93%); mp 31.5°-35° C.

reactant | 3-dodecyl-5-isoxazole methanol | 0.0037 mol, 1.0 g | C(CCCCCCCCCCC)C1=NOC(=C1)CO | C16H29NO2
reactant | phosphorous tribromide | 0.0014 mol, 0.13 mL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-(Bromomethyl)-3-dodecylisoxazole | BrCC1=CC(=NO1)CCCCCCCCCCCC | C16H28BrNO
